US05180733
Step 1: 2-(4-Fluorophenyl)methyl-1,3-dithiane
1,3-Dithiane (20 g, 166 mmol) was dissolved in 250 mL of anhydrous THF under a nitrogen atmosphere. The resultant solution was cooled to -78° C. and n-butyllithium (128 mL of a 1.5M solution of in hexane, 199 m mol) was added. The reaction mixture was warmed to 0° C. and then stirred at 0° C. for 0.5 h. The reaction mixture was recooled to -78° C. and 25 g (0.135 mol) of 3-fluorobenzyl bromide was added over a 15 minute period. The reaction mixture was stirred for 3 h at ambient temperature and then the reaction was quenched with aqueous ammonium chloride solution. The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic extracts were dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was distilled to afford 35.5 g (94% yield) of the title compound, b.p. 125°-145° C. (0.75 mm Hg); MS DCI-NH3M/Z: 229 (M+H)+ ; 1H NMR (CDCl3) δ1.76-1.95 (1H, m), 2.05-2.19 (1H, m), 2.78-2.98 (4H, m), 2.99 (2H, d, J=9 Hz), 4.21 (1H, t, J=9 Hz), 6.93-7.05 (2H, m), 7.16-7.25 (2H, m).

reactant | 1,3-Dithiane | 166 mmol, 20 g | S1CSCCC1 | C4H8S2
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-fluorobenzyl bromide | 0.135 mol, 25 g | FC=1C=C(CBr)C=CC1 | C7H6BrF
reactant | THF | 250 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-(4-Fluorophenyl)methyl-1,3-dithiane | 35.5 g, 94% yield | FC1=CC=C(C=C1)CC1SCCCS1 | C11H13FS2
